US04014888
3-n-propyl-1H-pyrido(2,3-c) (1,2,6)thiadiazin-4(3H)-one-2,2-dioxide
Methyl 2-(((n-propylamino)sulfonyl)amino)-3-pyridinecarboxylate (15.7 grams; 0.057 mole), 95 ml of water and 10.5 ml of 50 percent aqueous sodium hydroxide were mixed and the resulting reaction mixture stirred for about one and one-fourth hours at ambient temperatures. The reaction mixture was extracted with two 50 ml portions of methylene chloride and one 50 ml portion of ether to remove impurities. The aqueous layer was separated from the organic layer and acidified to a pH of about 4.5 with concentrated hydrochloric acid. The solution was filtered and the filtrate acidified to a pH of about 1. The resulting product precipitate was recovered by filtration, dissolved in acetone and the solution filtered and dried with magnesium sulfate. The mixture was again filtered and the filtrate reduced in vacuo to obtain the title compound as a yellow powder having a melting point of 208° C.-210° C.

reactant | Methyl 2-(((n-propylamino)sulfonyl)amino)-3-pyridinecarboxylate | 0.057 mole, 15.7 grams | C(CC)NS(=O)(=O)NC1=NC=CC=C1C(=O)OC | C10H15N3O4S
reactant | sodium hydroxide | 10.5 ml | [OH-].[Na+]
solvent | water | 95 ml | O | H2O
product | 3-n-propyl-1H-pyrido(2,3-c) (1,2,6)thiadiazin-4(3H)-one-2,2-dioxide | C(CC)N1C(C2=C(NS1(=O)=O)N=CC=C2)=O | C9H11N3O3S
